US05538973
Synthesis of 1-[3-(4-benzhydryl-1-piperazinyl)propyl]-6-ethoxycarbonyl-3-(1H-imidazol-1-ylmethyl)-1H-indole
1-(3-Chloropropyl)-6-ethoxycarbonyl-3-(1H-imidazol-1-ylmethyl)-1H-indole (1.5 g) was dissolved in DMF (15 ml), and thereto were added 1-diphenylmethylpiperazine (1.59 g), potassium carbonate (1.28 g), and potassium iodide (145 mg), followed b stirring at 80° C. for 16 hours. Water and ethyl acetate we added to the reaction mixture for extraction, followed by washing with saturated brine. After drying over anhydrous sodium sulfate, the solvent was distilled away under reduced pressure. The residue was purified by silica gel column chromatography (Daisogel 60 g, elution; CHCl3 /MeOH=10/1) to give 2.4 g of the title compound as an oily substance.

reactant | 1-(3-Chloropropyl)-6-ethoxycarbonyl-3-(1H-imidazol-1-ylmethyl)-1H-indole | 1.5 g | ClCCCN1C=C(C2=CC=C(C=C12)C(=O)OCC)CN1C=NC=C1 | C18H20ClN3O2
reactant | 1-diphenylmethylpiperazine | 1.59 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | potassium carbonate | 1.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 145 mg | [I-].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 1-[3-(4-benzhydryl-1-piperazinyl)propyl]-6-ethoxycarbonyl-3-(1H-imidazol-1-ylmethyl)-1H-indole | 2.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCCN1C=C(C2=CC=C(C=C12)C(=O)OCC)CN1C=NC=C1 | C35H39N5O2
